US07507740B2
(ii) Production of {4-[7-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-2H-pyrazolo[4,3-d]pyrimidin-2-yl]phenyl}methanol
To a solution of 4-[7-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-2H-pyrazolo[4,3-d]pyrimidin-2-yl]benzaldehyde (50 mg) in methanol (2 mL) was added sodium borohydride (2 mg) under ice-cooling, and the mixture was stirred for 30 min. After the completion of the reaction, the reaction solution was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography (tetrahydrofuran/ethyl acetate=1/1) to give the title compound (20 mg) as a white solid.

reactant | 4-[7-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-2H-pyrazolo[4,3-d]pyrimidin-2-yl]benzaldehyde | 50 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C=2C(N=CN1)=CN(N2)C2=CC=C(C=O)C=C2 | C25H17ClFN5O2
reactant | sodium borohydride | 2 mg | [BH4-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | {4-[7-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-2H-pyrazolo[4,3-d]pyrimidin-2-yl]phenyl}methanol | 20 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C=2C(N=CN1)=CN(N2)C2=CC=C(C=C2)CO | C25H19ClFN5O2
